US06982274B2
tert-Butyl 5-(aminomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate
To a solution of 550 mg of tert-butyl 5-(azidomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate in a mixture of 10 ml ethanol and 5 ml tetrahydrofuran was added 110 mg of 5% palladium-calcium carbonate, and the mixture was hydrogenated at room temperature at normal pressure for 1.5 hours. After filtering off the catalyst through Celite, the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:methanol=1:0 to 9:1), to give 427 mg of the title compound as light green crystals.

reactant | tert-butyl 5-(azidomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 550 mg | N(=[N+]=[N-])CC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H18FN5O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium-calcium carbonate | 110 mg | C([O-])([O-])=O.[Ca+2].[Pd+2].C([O-])([O-])=O
product | tert-Butyl 5-(aminomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 427 mg | NCC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H20FN3O2
